US06232318B1
A suspension of 4-(4-fluorophenyl)piperidine hydrochloride (105 mg, 0.49 mmol) and 1-benzyl-3-(3-bromopropyl)-5-methyl-1H-pyrimidine-2,4-dione (164 mg, 0.49 mmol) in 20 mL acetonitrile was treated with sodium iodide (134 mg, 0.97 mmol) and potassium carbonate (100 mg, 0.73 mmol) and the reaction was heated at reflux for 16 h. The mixture was cooled to ambient temperature and poured into a separatory finnel containing water (100 mL) and dichloromethane (100 mL) and the layers separated. The aqueous layer was extracted with dichloromethane (2×100 mL) and the combined organics dried with magnesium sulfate, filtered and concentrated in vacuo to provide an oil. This crude material was purified by pressurized silica gel chromatography (5% methanol in ethyl acetate) to give 1-benzyl-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propyl}-5-methyl-1H-pyrimidine-2,4-dione (130 mg, 61%). The hydrochloride salt was prepared by conventional methods to provide a white solid.

reactant | 4-(4-fluorophenyl)piperidine hydrochloride | 0.49 mmol, 105 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | 1-benzyl-3-(3-bromopropyl)-5-methyl-1H-pyrimidine-2,4-dione | 0.49 mmol, 164 mg | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CCCBr)=O | C15H17BrN2O2
reactant | sodium iodide | 0.97 mmol, 134 mg | [I-].[Na+]
reactant | potassium carbonate | 0.73 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 1-benzyl-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propyl}-5-methyl-1H-pyrimidine-2,4-dione | 130 mg, 61% | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CCCN1CCC(CC1)C1=CC=C(C=C1)F)=O | C26H30FN3O2
